US08912181B2
Tosylic acid dihydrate (0.038 g) was added to a suspension of 2-amino-3-iodobenzamide (0.513 g) supplemented with methyl orthoformate (5 ml) and NMP (1 ml), and the mixture was heated to reflux for 3 hours. After cooling, water was added to the reaction solution, and the deposit was filtrated and dried under reduced pressure to obtain 8-iodoquinazolin-4(1H)-one (0.481 g). Phosphorus oxychloride (10 ml) was added to the obtained 8-iodoquinazolin-4(1H)-one (1.17 g), and the mixture was heated to reflux for 8 hours. The solvent was distilled off under reduced pressure, and chloroform was added to the residue. The reaction solution was neutralized with an aqueous sodium hydroxide solution with cooling in an ice bath and partitioned into organic and aqueous layers. The organic layer was washed with brine. The organic layer thus washed was dried over anhydrous sodium sulfate. Then, the solvent was distilled off, and the residue was purified by neutral silica gel column chromatography (chloroform/ethyl acetate) to obtain 4-chloro-8-iodoquinazoline (0.946 g). 4-(4-Chloroquinazolin-8-yl)-2-(4-hydroxycyclohexylamino)benzonitrile was obtained according to Example 2(1) using the obtained 4-chloro-8-iodoquinazoline instead of compound (1b) and PdCl2dppf instead of Pd(PPh3)4. A compound of Comparative Example 2 was obtained as a pale yellow solid (yield based on 5 steps: 10%) according to Example 79 using the obtained 4-(4-chloroquinazolin-8-yl)-2-(4-hydroxycyclohexylamino)benzonitrile instead of compound (4b) and 3-quinolineboronic acid instead of 3-(tert-butylamino)-4-cyanophenylboronic acid pinacol ester.

reactant | 8-iodoquinazolin-4(1H)-one | 1.17 g | IC=1C=CC=C2C(N=CNC12)=O | C8H5IN2O
reactant | Phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-8-iodoquinazoline | 0.946 g | ClC1=NC=NC2=C(C=CC=C12)I | C8H4ClIN2
